US07119120B2
N-(4-Bromo-phenyl)-3-trifluoromethyl-benzamide
Under a nitrogen atmosphere, 4-bromoaniline (15.75 g, 91.6 mmol) was dissolved in anhydrous dichloromethane (220 ml) in a 500-ml flask. Triethylamine (14.1 ml, 100 mmol) was added to the solution. The mixture was cooled in an ice bath and 3-(trifluoromethyl)benzoyl chloride (21 g, 100 mmol) was added slowly through a syringe. The reaction mixture was allowed to warm to room temperature with stirring overnight. Deionized water was added to the mixture and the solution was transferred to a separatory funnel. The organic layer was separated and washed one more time with deionized water. The water was discarded, and the organic layer contained a suspension that was collected and heated to 40° C. to afford dissolution. After cooling to room temperature, a solid formed. The solid was collected by filtration and was triturated in dichloromethane (100 ml). The solid was then filtered and dried under high vacuum oven at 65° C. Pure product was obtained (28 g, 90% yield). M/Z of [M−H]−=343. 1H NMR (DMSO) δ=7.6 (2H), 7.8 (3H), 7.95 (1H), 8.3(1H), 10.6 (1H).

reactant | 4-bromoaniline | 91.6 mmol, 15.75 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | Triethylamine | 100 mmol, 14.1 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)benzoyl chloride | 100 mmol, 21 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | water | O | H2O
solvent | dichloromethane | 220 ml | ClCCl | CH2Cl2
product | N-(4-Bromo-phenyl)-3-trifluoromethyl-benzamide | 90% yield | BrC1=CC=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C14H9BrF3NO
